US09084794B2
b) 7-bromoquinolin-3-amine
A suspension of 2-(7-bromoquinolin-3-yl)isoindoline-1,3-dione (10 g, 28.3 mmol) in ethanol (200 mL) was treated with hydrazine (1.777 mL, 56.6 mmol) then heated under reflux for 1 h. The mixture was allowed to cool, the precipitate was collected and washed with a little ethanol, and the filtrate was evaporated to a grey solid. The isolated solid was dissolved in warm ethanol and adsorbed onto silica gel. Purification of the solid by silica gel chromatography (50-100% ethyl acetate/hexanes) afforded the title compound (3.5 g, 56%). 1H NMR (400 MHz, DMSO-d6) δ ppm 5.83 (s, 2 H) 7.14 (d, J=2.53 Hz, 1 H) 7.49 (dd, J=8.84, 2.02 Hz, 1 H) 7.54-7.65 (m, 1 H) 7.94 (d, J=1.77 Hz, 1 H) 8.46 (d, J=2.78 Hz, 1 H).

reactant | 2-(7-bromoquinolin-3-yl)isoindoline-1,3-dione | 28.3 mmol, 10 g | BrC1=CC=C2C=C(C=NC2=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H9BrN2O2
reactant | hydrazine | 56.6 mmol, 1.777 mL | NN | H4N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 7-bromoquinolin-3-amine | 3.5 g, 56% | BrC1=CC=C2C=C(C=NC2=C1)N | C9H7BrN2
